US08937071B2
To a solution of 5-bromo-2-(bromomethyl)-1,3-difluorobenzene (1.6 g, 5.60 mmol) in DMF (20 mL) was added KCN (0.401 g, 6.16 mmol). The resulting mixture was stirred at 25° C. for 16 h. The mixture was dissolved in H2O (50 mL) and extracted by EA (50 mL). The organic layer was dried over Na2SO4, filtered and concentrated. The crude material was purified by silica column chromatography (PE/EA=3/1) to yield a white solid of 2-(4-bromo-2,6-difluorophenyl)acetonitrile (1.1 g, 2.57 mmol, 45.9% yield): 1H NMR (400 MHz, CD3OD) δ 7.39-7.36 (m, 2H), 3.89 (s, 2H).

reactant | 5-bromo-2-(bromomethyl)-1,3-difluorobenzene | 5.60 mmol, 1.6 g | BrC=1C=C(C(=C(C1)F)CBr)F | C7H4Br2F2
reactant | KCN | 6.16 mmol, 0.401 g | [C-]#N.[K+]
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | H2O | 50 mL | O | H2O
product | 2-(4-bromo-2,6-difluorophenyl)acetonitrile | 2.57 mmol, 1.1 g, 45.9% yield | BrC1=CC(=C(C(=C1)F)CC#N)F | C8H4BrF2N
